US07217710B2
1-Methyl-6-methylsulfanyl-1,2-dihydro-pyrazolo[3,4-d]pyrimidin-3-one (2.0 g, 0.01 mol) was heated with phosphorus oxychloride (8 mL) in a sealed tube at 140° C. for 6 hours. The reaction mixture was then poured into ice-water and basified with ammonium hydroxide. The formed product was isolated by filtration. The crude product was recrystalized from a 1:1 ethanol-water mixture to give 1.3 g (61%) of pure 3-chloro-1-methyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine; LC/MS (m/e)=215.0 (MH+), Rt=1.94 min.

reactant | 1-Methyl-6-methylsulfanyl-1,2-dihydro-pyrazolo[3,4-d]pyrimidin-3-one | 0.01 mol, 2.0 g | CN1NC(C=2C1=NC(=NC2)SC)=O | C7H8N4OS
reactant | phosphorus oxychloride | 8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-chloro-1-methyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | 1.3 g, 61% | ClC1=NN(C2=NC(=NC=C21)SC)C | C7H7ClN4S
